US09340547B2
a) (S)-tert-Butyl 4-(benzyloxy)-1-oxo-1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)butan-2-ylcarbamate
The title compound was prepared from 1-amino-N-phenyl-1H-pyrrole-2-carboxamide (0.65 g, 3.2 mmol) and (S)-4-(benzyloxy)-2-(tert-butoxycarbonylamino)butanoic acid (1.0 g, 3.2 mmol) following the experimental procedure described in Preparation 73a. 1.57 g (96% yield) of the desired compound were obtained.

reactant | 1-amino-N-phenyl-1H-pyrrole-2-carboxamide | 3.2 mmol, 0.65 g | NN1C(=CC=C1)C(=O)NC1=CC=CC=C1 | C11H11N3O
reactant | (S)-4-(benzyloxy)-2-(tert-butoxycarbonylamino)butanoic acid | 3.2 mmol, 1.0 g | C(C1=CC=CC=C1)OCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C16H23NO5
product | (S)-tert-Butyl 4-(benzyloxy)-1-oxo-1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)butan-2-ylcarbamate | 1.57 g, 96% yield | C(C1=CC=CC=C1)OCC[C@@H](C(NN1C(=CC=C1)C(NC1=CC=CC=C1)=O)=O)NC(OC(C)(C)C)=O | C27H32N4O5
